US04824843
Iron powder, 27.9 g (0.5 mol), is added to a mixture of 2-methyl-5-(3-nitrophenyl)-1,3,4-oxadiazole, (0.053 mol), in 1000 ml of ethyl alcohol with stirring. The mixture is heated to reflux and 1.73 ml of concentrated hydrochloric acid in 10 ml of ethyl alcohol is added dropwise. The mixture is reluxed three hours, 20 ml of 1 normal potassium hydroxide is added, the mixture filtered, and the filtrate evaporated. The residue is dissolved in dichloromethane, washed with water, and the methylene chloride layer separated and evaporated to give 7.05 g of 3-(5-methyl-1,3,4-oxadiazol-2-yl) benzenamine after recrystallization from 2-propanol; mp 139°-140° C.

reactant | 2-methyl-5-(3-nitrophenyl)-1,3,4-oxadiazole | 0.053 mol | CC=1OC(=NN1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O3
reactant | hydrochloric acid | 1.73 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl alcohol | 1000 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
catalyst | Iron | [Fe] | Fe
product | 3-(5-methyl-1,3,4-oxadiazol-2-yl) benzenamine | 7.05 g | CC1=NN=C(O1)C=1C=C(C=CC1)N | C9H9N3O
